US07141564B2
(a) Methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate
A solution of ethyl 2-mercaptoacetate (1.473 ml) in DMF (48 ml) was ice-cooled and treated with sodium hydride (540 mg of a 60% dispersion in oil). After 1 hour methyl 6-amino-5-bromopyridine-2-carboxylate (3 g) (T. R. Kelly and F. Lang, J. Org. Chem. 61, 1996, 4623-4633) was added and the mixture stirred for 16 hours at room temperature. The solution was diluted with EtOAc (1 liter), washed with water (3×300 ml), dried and evaporated to about 10 ml. The white solid was filtered off and washed with a little EtOAc to the ester (0.95 g).

reactant | ethyl 2-mercaptoacetate | 1.473 ml | SCC(=O)OCC | C4H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 6-amino-5-bromopyridine-2-carboxylate | 3 g | NC1=C(C=CC(=N1)C(=O)OC)Br | C7H7BrN2O2
solvent | DMF | 48 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 1 liter | CCOC(=O)C | C4H8O2
product | Methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | O=C1NC2=C(SC1)C=CC(=N2)C(=O)OC | C9H8N2O3S
